US07253165B2
Synthesis of 6-fluoro-3-(4-{2-[4-(4-fluoro-phenyl)-piperidin-1-yl]-ethoxy}-phenyl) -benzo[d]isoxazole hydrochloride (Scheme III, Compound 1b)
Add 4-(4-fluoro-phenyl)-piperidine (133 mg, 0.744 mol) (See Table No.1, SM 2) to a suspension of 3-[4-(2-bromo-ethoxy)-phenyl]-6-fluoro-benzo[d]isoxazole (250 mg, 0.744 mol) in a mixture of water:acetonitrile (0.1 mL:2.5 mL). Then add potassium carbonate (164 mg, 1.63 mmol) and potassium iodide (12 mg, 1.07 mmol) and heat at reflux for 8 hours. Stir at room temperature for 72 hours, filter the suspension and wash the solid thoroughly with dichloromethane. Dilute the resulting solution with dichloromethane (5 mL) and wash with water (5 mL), 10% HCl (5 mL), water (5 mL), saturated sodium chloride (5 mL), dry (MgSO4), filter and evaporate to give a white solid. Dissolve the solid in a minimum amount of chloroform and add 1.0 M HCl in ether and stir under a nitrogen atmosphere for 1 hour. Collect the solid by vacuum filtration, wash thoroughly with ether and dry to give the title compound (168 mg, 48% Yield). Microanalysis (C, H, N) is consistent with the final, desired compound. mp-235-239° C.

reactant | 4-(4-fluoro-phenyl)-piperidine | 0.744 mol, 133 mg | FC1=CC=C(C=C1)C1CCNCC1 | C11H14FN
reactant | 3-[4-(2-bromo-ethoxy)-phenyl]-6-fluoro-benzo[d]isoxazole | 0.744 mol, 250 mg | BrCCOC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)F | C15H11BrFNO2
reactant | potassium carbonate | 1.63 mmol, 164 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.07 mmol, 12 mg | [I-].[K+]
reactant | HCl | 1.0 M | Cl | ClH
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ether | CCOCC | C4H10O
solvent | acetonitrile | 0.1 mL | C(C)#N | C2H3N
product | 6-fluoro-3-(4-{2-[4-(4-fluoro-phenyl)-piperidin-1-yl]-ethoxy}-phenyl) -benzo[d]isoxazole hydrochloride | 168 mg, 48% Yield | Cl.FC1=CC2=C(C(=NO2)C2=CC=C(C=C2)OCCN2CCC(CC2)C2=CC=C(C=C2)F)C=C1 | InChI=1S/C26H24F2N2O2.ClH/c27-21-5-1-18(2-6-21)19-11-13-30(14-12-19)15-16-31-23-8-3-20(4-9-23)26-24-10-7-22(28)17-25(24)32-29-26;/h1-10,17,19H,11-16H2;1H
